US08071592B2
(e) [7-(Methyloxy)-2-oxo-1(2H)-quinolinyl]acetaldehyde
To a stirred solution of 7-(methyloxy)-1-(2-propen-1-yl)-2(1H)-quinolinone (4.14 g, 0.019 mol) in 1,4-dioxane (80 ml) and water (40 ml) under N2 was added sodium periodate (9.5 g; 0.044 mol) and osmium tetroxide (10 ml, 4% aqueous solution) and stirred overnight. The reaction was concentrated and partitioned in 20% MeOH/DCM (300 ml) and water (200 ml). The organic layer was dried over magnesium sulphate, filtered, and concentrated. The product was obtained after column chromatography (neat ethyl acetate) to yield g (71%) of the title compound as a green solid.

reactant | 7-(methyloxy)-1-(2-propen-1-yl)-2(1H)-quinolinone | 0.019 mol, 4.14 g | COC1=CC=C2C=CC(N(C2=C1)CC=C)=O | C13H13NO2
reactant | sodium periodate | 0.044 mol, 9.5 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
catalyst | osmium tetroxide | 10 ml | [Os](=O)(=O)(=O)=O
product | [7-(Methyloxy)-2-oxo-1(2H)-quinolinyl]acetaldehyde | 71% | COC1=CC=C2C=CC(N(C2=C1)CC=O)=O | C12H11NO3
